US04228177
(a) 2,3-Dihydro-3-(hydroxymethylene)-4H-1-benzothiopyran-4-one
From 9.2 g of sodium (0.4 mol) and 160 ml of absolute methanol there is prepared sodium methanolate. Then the surplus of methanol is evaporated in vacuo and 200 ml of dry benzene and 32.6 g of ethyl formate (0.44 mol) are added to the dry residue. While stirring and passing nitrogen through the mixture, there are added 32.8 g of 2,3-dihydro-4H-1-benzothiopyran-4-one, dissolved in 160 ml of dry benzene dropwise to it to keep the reaction temperature in the range from 0° to 50° C. All components become dissolved and after that, the sodium salt of the 2,3-dihydro-3-(hydroxymethylene)-4H-1-benzothiopyran-4-one precipitates. After allowing the reaction mixture to stand overnight at room temperature, 400 ml of water are added for dissolving the sodium salt. The aqueous layer is separated from the organic solvent and, after agitating twice with ether and treatment with charcoal, it is acidified with half-concentrated aqueous hydrochloric acid. The oily title compound is extracted with chloroform, dried with sodium sulphate and after evaporation of the solvent, distilled in vacuo. b.p. 0.3 mm, 134°-138°; yield: 32.9 g (85.6%).

reactant | sodium | 0.4 mol, 9.2 g | [Na] | Na
reactant | sodium methanolate | C[O-].[Na+]
reactant | ethyl formate | 0.44 mol, 32.6 g | C(=O)OCC | C3H6O2
reactant | 2,3-dihydro-4H-1-benzothiopyran-4-one | 32.8 g | S1CCC(C2=C1C=CC=C2)=O | C9H8OS
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
solvent | methanol | 160 ml | CO | CH4O
product | 2,3-Dihydro-3-(hydroxymethylene)-4H-1-benzothiopyran-4-one | OC=C1CSC2=C(C1=O)C=CC=C2 | C10H8O2S
